US08278482B2
3-Azido-1-(4,4-dimethylpiperidin-1-yl)-3-methylbutan-1-one
To a stirred ice cold solution of 4,4-dimethylpiperidine (4.21 g, 1 equiv, 37.2 mmol) and DIEA (9.73 mL, 1.5 equiv, 55.9 mmol) in anhydrous DCE (65 mL) was added 3-azido-3-methylbutanoyl chloride (6.02 g, 37.2 mmol) in small portions. The reaction was stirred and left at 0° C. for 1 h. Aqueous 1 M HCl (100 mL) was added to the reaction mixture and the contents poured into a separatory funnel. The organic layer was separated and washed with 1 M HCl (100 mL). It was dried over anhydrous MgSO4, filtered, concentrated and dried under high vacuum to give a crude oil (7.72 g, 87.1%). The crude oil was purified on an ISCO purification system with gradient elution from 20-50% ethyl acetate in hexanes. The desired fractions were collected and concentrated to give a colorless oil (6.00 g, yield: 67.7%). 1H NMR (CDCl3, 400 MHz): δ 0.98 (s, 6H), 1.32-1.39 (m, 4H), 1.45 (s, 6H), 2.52 (s, 2H), 3.42-3.47 (m, 2H), 3.55-3.60 (m, 2H). LRMS (ESI+) for C12H22N4O (238.2); Found: 239 (M+).

reactant | 4,4-dimethylpiperidine | 37.2 mmol, 4.21 g, 1 equiv | CC1(CCNCC1)C | C7H15N
reactant | DIEA | 55.9 mmol, 9.73 mL, 1.5 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-azido-3-methylbutanoyl chloride | 37.2 mmol, 6.02 g | N(=[N+]=[N-])C(CC(=O)Cl)(C)C | C5H8ClN3O
reactant | HCl | 1 M, 100 mL | Cl | ClH
solvent | DCE | 65 mL | ClCCCl | C2H4Cl2
product | 3-Azido-1-(4,4-dimethylpiperidin-1-yl)-3-methylbutan-1-one | 6.00 g, yield: 67.7% | N(=[N+]=[N-])C(CC(=O)N1CCC(CC1)(C)C)(C)C | C12H22N4O
